US05166206
Step A: Ethyl 2-[(4-iodophenyl)methyl]-3-oxoheptanoate
To a solution of 3.77 g (43.8 mmol) ethyl 3-oxoheptanoate in 200 mL DMSO was added 1.75 g (43.8 mmol) 65% NaH in oil. After 10 minutes, 6.5 g (21.9 mmol) α-bromo-4-iodotoluene was added. The mixture was allowed to stir for 2 hours. It was then poured into an ice/brine mixture and extracted 3 times with ether. The combined organic material was washed with brine, dried over MgSO4, stripped of solvent in vacuo, then Still flash chromatographed in 40% CH2Cl2 /hexane to give 2.46 g of the title compound, 29% yield. Rf 0.23 in 40% CH2Cl2 /hexane, visualized by UV and ninhydrin stain;

reactant | ethyl 3-oxoheptanoate | 43.8 mmol, 3.77 g | O=C(CC(=O)OCC)CCCC | C9H16O3
reactant | NaH | 43.8 mmol, 1.75 g | [H-].[Na+]
reactant | α-bromo-4-iodotoluene | 21.9 mmol, 6.5 g | BrCC1=CC=C(C=C1)I | C7H6BrI
solvent | DMSO | 200 mL | CS(=O)C | C2H6OS
product | Ethyl 2-[(4-iodophenyl)methyl]-3-oxoheptanoate | 2.46 g, 29% yield | IC1=CC=C(C=C1)CC(C(=O)OCC)C(CCCC)=O | C16H21IO3
